US07262212B2
4-(Trifluoromethyl)cinnamyl alcohol (3 g, 14.84 mmol) was dissolved in THF (60 ml), and phthalimide (2.84 g, 19.29 mmol) and triphenylphosphine (5.84 g, 22.26 mmol) were added to the solution, to which a solution of diethyl azodicarboxylate (3.87 g, 22.26 mmol) in THF (20 ml) was gradually added dropwise. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/methylene chloride=1/1) to afford 2-[3-(4-trifluoromethylphenyl)-2-propenyl]phthalimide (4.57 g, yield 93%) as a white powder.

reactant | 4-(Trifluoromethyl)cinnamyl alcohol | 14.84 mmol, 3 g | FC(C1=CC=C(C=CCO)C=C1)(F)F | C10H9F3O
reactant | phthalimide | 19.29 mmol, 2.84 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 22.26 mmol, 5.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 22.26 mmol, 3.87 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[3-(4-trifluoromethylphenyl)-2-propenyl]phthalimide | 4.57 g, yield 93% | FC(C1=CC=C(C=C1)C=CCC12C(C(=O)NC1=O)C=CC=C2)(F)F | C18H14F3NO2
